US08877760B2
5-(((1R,2S)-2-aminocyclohexyl)amino)-3-((5-fluoropyridin-3-yl)amino)pyrazine-2-carboxamide
The mixture of tert-tutyl ((1S,2R)-2-((6-chloro-5-cyanopyrazin-2-yl)amino)cyclohexyl)carbamate (100 mg, 0.28 mmol), 3-fluoro-5-aminopyridine (60 mg, 0.56 mmol), powder cesium carbonate (360 mg, 1.12 mmol), BINAP (37 mg, 0.06 mmol), Pd(OAc)2 (14 mg, 0.06 mmol) in 20 mL dioxane was degassed with argon stream. It was stirred in argon atmosphere at 110° C. for 2 h. The mixture was cooled, diluted with 100 mL EtOAc, vigorously stirred, and filtered through celite. The filtrate was concentrated and subjected to silica flash column with 0-60% EtOAc in hexane to isolate the coupling product. It was then stirred in 6 mL TFA and 1 mL conc. H2SO4 at 80° C. for 30 m. It was cooled in ice bath, diluted with water, filtered, and subjected to reverse phase preparative HPLC to isolate the title compound (83 mg). MS found for C16H20FN7O as (M+H)+ 346.5. UV: λ=259, 301 nm. 1H NMR: (CD3OD) δ 9.04 (1H, m), 8.57 (1H, m), 8.40 (1H, m), 7.73 (1H, s), 4.49 (1H, m), 3.74 (1H, m), 1.96-1.60 (8H, m) ppm.

reactant | ((1S,2R)-2-((6-chloro-5-cyanopyrazin-2-yl)amino)cyclohexyl)carbamate | 0.28 mmol, 100 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC([O-])=O)C#N
reactant | 3-fluoro-5-aminopyridine | 0.56 mmol, 60 mg | FC=1C=NC=C(C1)N | C5H5FN2
reactant | cesium carbonate | 1.12 mmol, 360 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.06 mmol, 37 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.06 mmol, 14 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(((1R,2S)-2-aminocyclohexyl)amino)-3-((5-fluoropyridin-3-yl)amino)pyrazine-2-carboxamide | 83 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C(=O)N)NC=1C=NC=C(C1)F | C16H20FN7O
